US07799775B2
In a glass tube, 414 mg of 2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-3,1-benzoxazin-4-one as synthesized in above Step 7-15-B, 590 mg of isopropylamine and 5 ml of tetrahydrofuran were hermetically sealed and stirred for an hour at the exterior temperature of 80° C. Cooling the reaction mixture, the solvent was distilled off under reduced pressure, and the resulting residue was purified on silica gel column chromatography (dichloromethane:methanol=10:1) to provide 275 mg (58%) of N-isopropyl-2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]benzamide.

reactant | 2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-3,1-benzoxazin-4-one | 414 mg | N1=C(C=CC2=CC=CC=C12)N1CCN(CC1)CCCCC1=NC2=C(C(O1)=O)C=CC=C2 | C25H26N4O2
reactant | isopropylamine | 590 mg | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | N-isopropyl-2-[5-(4-quinolin-2-ylpiperazin-1-yl)pentanoylamino]benzamide | 275 mg, 58% | C(C)(C)NC(C1=C(C=CC=C1)NC(CCCCN1CCN(CC1)C1=NC2=CC=CC=C2C=C1)=O)=O | C28H35N5O2
